US07122580B2
(2S)-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid
The title compound was prepared following General Procedure C using (S)-2-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid methyl ester (135 mg, 0.19 mmol), LiOH(aq) (2.0 N, 0.22 mL, 0.44 mmol), THF (4 mL) and MeOH (1 mL). The mixture was stirred at 0° C. for 12 h. The product was obtained as off-white solid (115 mg, 0.16 mmol, 84% yield).

reactant | (S)-2-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid methyl ester | 0.19 mmol, 135 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1)NC(C1=C(C=CC(=C1)Cl)NCC1=CC(=CC=C1)OC1=CC=C(C=C1)C(C)(C)C)=O)=O | C46H49ClN2O4
reactant | LiOH | 0.44 mmol, 2.0 N, 0.22 mL | [Li+].[OH-]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (2S)-{2-[3-(4-tert-Butyl-phenoxy)-benzylamino]-5-chloro-benzoylamino}-3-(4′-cyclohexyl-biphenyl-4-yl)-propionic acid | C(C)(C)(C)C1=CC=C(OC=2C=C(CNC3=C(C(=O)N[C@H](C(=O)O)CC4=CC=C(C=C4)C4=CC=C(C=C4)C4CCCCC4)C=C(C=C3)Cl)C=CC2)C=C1 | C45H47ClN2O4
